US06350749B1
To a solution of 5-(2-methoxyphenyl)-1,3-cyclohexanedione (2.0 g), acetic acid (0.99 g) and dimethylaminopyridine (1.7 g) in dimethylformamide (100 ml) was added dicyclohexylcarbodiimide (2.5 g), and the mixture was stirred at room temperature for 15 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. The solution was washed with potassium hydrogen sulfate solution and water, and to the solution was added 1N sodium hydroxide solution. The aqueous layer was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was recrystallized from diisopropylether/hexane to give colorless crystals of 2-acetyl-5-(2-methoxyphenyl)cyclohexane-1,3-dione (2.0 g).

reactant | 5-(2-methoxyphenyl)-1,3-cyclohexanedione | 2.0 g | COC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O3
reactant | acetic acid | 0.99 g | C(C)(=O)O | C2H4O2
reactant | dimethylaminopyridine | 1.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-acetyl-5-(2-methoxyphenyl)cyclohexane-1,3-dione | 2.0 g | C(C)(=O)C1C(CC(CC1=O)C1=C(C=CC=C1)OC)=O | C15H16O4
